US06670372B2
A solution of 2-[2-(ethoxymethyl)-1H-imidazo[4,5-c]quinolin-1-yl]ethanol (1.0 g, 3.7 mmol) in N,N-dimethylformamide (20 ml) was added dropwise to a suspension of sodium hydride (0.19 g of a 60% dispersion in mineral oil, 4.8 mmol) in N,N-dimethylformamide (10 ml). The reaction was maintained for 45 minutes followed by the dropwise addition of {4-[(6-bromohexyl)oxy]butyl}benzene (1.6 g, 5.1 mmol). The reaction was stirred overnight at room temperature and then partitioned between ethyl acetate and water. The two phases were separated and the aqueous fraction was extracted with additional ethyl acetate. The organic fractions were combined, washed with water, dried (MgSO4), filtered, and concentrated. The crude product was purified by flash column chromatography (silica gel, 4:1 ethyl acetate/hexanes) to provide 0.81 g of 2-(ethoxymethyl)-1-(2-{[6-(4-phenylbutoxy)hexyl]oxy}ethyl)-1H-imidazo[4,5-c]quinoline as a brown oil.

reactant | 2-[2-(ethoxymethyl)-1H-imidazo[4,5-c]quinolin-1-yl]ethanol | 3.7 mmol, 1.0 g | C(C)OCC=1N(C2=C(C=NC=3C=CC=CC23)N1)CCO | C15H17N3O2
reactant | sodium hydride | [H-].[Na+]
reactant | {4-[(6-bromohexyl)oxy]butyl}benzene | 5.1 mmol, 1.6 g | BrCCCCCCOCCCCC1=CC=CC=C1 | C16H25BrO
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 2-(ethoxymethyl)-1-(2-{[6-(4-phenylbutoxy)hexyl]oxy}ethyl)-1H-imidazo[4,5-c]quinoline | 0.81 g | C(C)OCC=1N(C2=C(C=NC=3C=CC=CC23)N1)CCOCCCCCCOCCCCC1=CC=CC=C1 | C31H41N3O3
